US08420640B2
To a solution of 1-(3-(benzylamino)-4-nitrophenyl)piperidine-4-carboxylic acid (0.2 g, 0.56 mmol) and benzylamine (0.06 mL, 0.56 mmol) in DMF (5 mL) was added diisopropylethylamine (0.198 mL, 1.12 mmol) under argon. The mixture cooled to 0° C., HATU (0.212 g, 0.56 mmol) was added at that temperature and then stirred at room temperature for 4 h. After completion of reaction (by TLC), H2O (5 mL) was added drop by drop. The resulting yellow precipitate was filtered, washed with 2 mL of water, dried (high vacuum, 14 h) to furnish N-benzyl-1-(3-(benzylamino)-4-nitrophenyl)piperidine-4-carboxamide (0.21 g), 84% yield. 1H NMR (500 MHz, DMSO): δ 1.51 (m, 2H), 1.74 (m, 2H), 2.48 (m, 1H), 2.96 (m, 2H), 3.93 (m, 2H), 4.26 (d, J=5.9 Hz, 2H), 4.59 (d, J=5.8 Hz, 2H), 5.95 (d, J=2.45 Hz, 1H), 6.42 (dd, J=2.5 Hz, 1H), 7.24 (m, 4H) 7.37 (m, 4H), 7.42 (m, 2H), 7.91 (d, J=9.7 Hz, 1H), 8.35 (m, 1H), 8.84 (m, 1H). HRMS (ESI) calculated for C26H28N4NaO3: 467.2054, Found: 467.2054.

reactant | 1-(3-(benzylamino)-4-nitrophenyl)piperidine-4-carboxylic acid | 0.56 mmol, 0.2 g | C(C1=CC=CC=C1)NC=1C=C(C=CC1[N+](=O)[O-])N1CCC(CC1)C(=O)O | C19H21N3O4
reactant | benzylamine | 0.56 mmol, 0.06 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | diisopropylethylamine | 1.12 mmol, 0.198 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.56 mmol, 0.212 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | H2O | 5 mL | O | H2O
product | N-benzyl-1-(3-(benzylamino)-4-nitrophenyl)piperidine-4-carboxamide | 0.21 g, 84% yield | C(C1=CC=CC=C1)NC(=O)C1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])NCC1=CC=CC=C1 | C26H28N4O3
